US05922880
A reaction vessel was charged with 5.10 g of 1,3-dibromopropane, 2.40 g of potassium carbonate and 50 ml of N,N-dimethylformamide, to which a solution of 4.24 g of 2,6-dichloro-4-(benzyloxy)phenol dissolved in 10 ml of N,N-dimethylformamide was slowly added dropwise. After stirring at room temperature for 24 hours, the reaction mixture was poured into water, and extracted twice with 150 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 4.24 g of 3,5-dichloro-4-(3-bromopropyloxy)-1-(benzyloxy)benzene (68% yield).

reactant | 1,3-dibromopropane | 5.10 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 2.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dichloro-4-(benzyloxy)phenol | 4.24 g | ClC1=C(C(=CC(=C1)OCC1=CC=CC=C1)Cl)O | C13H10Cl2O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(3-bromopropyloxy)-1-(benzyloxy)benzene | 4.24 g, 68% yield | ClC=1C=C(C=C(C1OCCCBr)Cl)OCC1=CC=CC=C1 | C16H15BrCl2O2
